US06169107A
A mixture of 0.70 g (3.07 mmol) of 4-benzyloxy-2-methylbenzyl alcohol, 2.67 g (30.7 mmol) of manganese dioxide, 0.5 ml of methanol and 20 ml of chloroform was stirred at room temperature for 11 hours. Then insoluble matters were filtered off and the filter-rate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 0.60 g of 4-benzyloxy-2-methylbenzaldehyde.

reactant | 4-benzyloxy-2-methylbenzyl alcohol | 3.07 mmol, 0.70 g | C(C1=CC=CC=C1)OC1=CC(=C(CO)C=C1)C | C15H16O2
reactant | methanol | 0.5 ml | CO | CH4O
catalyst | manganese dioxide | 30.7 mmol, 2.67 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-benzyloxy-2-methylbenzaldehyde | 0.60 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
